US04988695
(c) 3-(2-Chloroethyl)-4-chlorocinnoline.
3-(2-Chloroethyl)-4-oxo-(1H)-cinnoline (9 g, 0.043 mol) and phosphorus oxychloride (90 ml) were heated under reflux for 1 hour. After allowing to cool, the excess phosphorus oxychloride was evaporated under reduced pressure and the residue was poured onto ice (100 g), basified with concentrated ammonia solution, and extracted with chloroform (3×100 ml). The chloroform extracts were combined, dried over magnesium sulphate and evaporated under reduced pressure to give a solid, 8.00 g. Recrystallization from diethyl ether gave the title compound, m.p. 81-82°.

reactant | 3-(2-Chloroethyl)-4-oxo-(1H)-cinnoline | 0.043 mol, 9 g | ClCCC1=NNC2=CC=CC=C2C1=O | C10H9ClN2O
reactant | phosphorus oxychloride | 90 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(2-Chloroethyl)-4-chlorocinnoline | ClCCC=1N=NC2=CC=CC=C2C1Cl | C10H8Cl2N2
